US05037986
A mixture of 26.7 g (0.115 mole) of 2-[(3-amino-4-quinolinyl)amino]-2,2-dimethyl-1-ethanol and 42.8 g (0.180 mole) of triethyl orthophenylacetate was heated at 130° C. for four hours. The mixture was diluted with water, acidified to pH 5 with 6N hydrochloric acid and diluted with diethyl ether. The solid which precipitated was separated by filtration, rinsed with diethyl ether and slurried in saturated sodium bicarbonate solution. The solid was separated by filtration and dried to provide beta,beta-dimethyl-2-phenylmethyl-1H-imidazo[4,5-c]quinoline-1-ethanol. The structural assignment was confirmed by nuclear magnetic resonance spectral analysis.

reactant | 2-[(3-amino-4-quinolinyl)amino]-2,2-dimethyl-1-ethanol | 0.115 mole, 26.7 g | NC=1C=NC2=CC=CC=C2C1NC(CO)(C)C | C13H17N3O
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | beta,beta-dimethyl-2-phenylmethyl-1H-imidazo[4,5-c]quinoline-1-ethanol | CC(CO)(N1C(=NC=2C=NC=3C=CC=CC3C21)CC2=CC=CC=C2)C | C21H21N3O
